data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7142,"CCC[CH2][Sn-:1]([I])([CH2]CCC)([CH2]CCC)[C:2]1(CN(C)C)C=C[C:3](=[O+:4]C)[CH:5]=[CH:6]1|((1, 2), 6);((6, 5), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8478,"CCO[C:1]1(C(F)(F)C(F)(F)F)C(CCC2=CC=CC=C2)[O+:2]1[Al-]([CH3])([CH3])[CH3]|((1, 2), 2)"
train,pmechdb_split_0,0,954,"C1CC[C:1](=[OH+:2])OC1.C[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8563,"CC1C[O:1]1.[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,401,"[CH3][Li-:1][P+:2](C)(Cl)Cl|((1, 2), 2)"
train,pmechdb_split_0,0,7829,"C1CCNC1.CC12CC[C:1]([N:2]3CCCC3)=[CH:3][C:4]1([OH2+:5])CCCC2=O|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6902,"N#CC1=CC=CC(OCCC[O-:1])=C1.O=[N+]([O-])[C:2]1=[N:3]N(C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=N1.[H][H].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4682,"CC1CCCCC1[O:1][B-:2]1(O)C2CCCC1CCC2|((2, 1), 1)"
train,pmechdb_split_0,0,9281,"CC[C+:1]=C(C1=C(C(OC)=[O:2])C=CC=C1)[B-]1(Cl)OC2=C(C=CC=C2)O1|(2, 1)"
train,pmechdb_split_0,0,2535,"C[CH:1](C)[Cl:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2518,"CO[CH:1]([OH:2])[SH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1571,"C1CCOC1.C1COCCO1.O.OCC[OH+:1][CH:2](C1=C(Cl)N=CS1)[OH:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4954,"C1CCC2([OH:1])NCCCC2C1.O=C1CCCCC1CCC[NH2+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4532,"C[CH:1]=[C:2](C)[O-:3].[CH3:4][Br:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2166,"CCCNC(=O)C1[CH:1](C(=O)NC(C(=O)N2CCCC2C(=O)[O-])C(C)CC)[O:2]1.CNC(C[O-:3])C(=O)OC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5500,"CC(C)[C:1]1([H:2])C=C[C+:3](C(C)C)[CH:4]=[CH:5]1.[F-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,1386,"CCNC(C)(OC(=O)CCC=O)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1340,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CS(=O)(=O)C1=CC=C(C2=CC[C:1](C)([OH2+:2])[N:3]2C2=CC=C(F)C=C2)C=C1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6530,"CCOC(=O)[C:1](CCC[CH2:2][Br:3])=[C:4](OCC)[O-:5]|(5, 4);((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,4671,"C[O:1][OH:2].C[SH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8300,"CS(C)=[O:1].O=C[CH2:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9273,"CC(CC[OH:1])OS(=O)(=O)C(F)(F)F.CC1=CC=C([S:2](=O)(Cl)=[O:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7933,"CCO[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.C[C+:5]=O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,6684,"C1=CC=CC=C1.C1=CC=[N+:1]([H:2])C=C1.CC(=O)CCC(C)(NC1=CC2=C(C=C1)C(I)=C(C1=CC=CC=C1)O2)[OH:3].CC1=CC=C(S(=O)(=O)[O-])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,543,"CC1=C[C:1](S(=O)(=O)O)([H:2])[C+:3](C)O1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5685,"C1CCC2C(C1)[O:1]2.[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10276,"CN[S:1](C)=[OH+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,5955,"CC(C)[CH2][Al-]([CH2]C(C)C)([O]C(C=CC1=CC=CC=C1)C1=CC=CC=C1)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7992,"C=CC1=C(C(=O)[O-:1])N2C(=O)C(NC(=O)CC3=CC=CC=C3)C2SC1.CC(C)OC(=O)C(NC(=O)OC(C)(C)C)[CH2:2][O:3][P+:4](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)NN=C(O)OCC.CCOC(=O)NNC(=O)OCC|(1, 2);((2, 3), 4)"
train,pmechdb_split_0,0,6578,"C[C:1](C)(C)[O:2][C:3](NC(CC1=CC=CC=C1)C(=O)NCCC(=O)O)=[OH+:4].O=C([O-])C(F)(F)F.[Cl-]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5971,"CC(C)(C)O.CC(C)C1=CC=CC(C(C)C)=C1N1C=C[N+](C2=C(C(C)C)C=CC=C2C(C)C)=C1[C:1](CC(C1=CC=CC=C1)C(C1=CC=CC=C1)(C(F)(F)F)[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1280,"CC(C)CC[OH:1].[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3213,"C[CH:1]=[C:2](Br)[OH:3].[Br:4][Br:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5695,"Cl[S:1](Cl)=[O:2].O=C(Cl)CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4180,"CC(=O)[O-:1].CO.C[C:2]([CH:3](CC(=O)C1=CC=CC=C1)[H:4])=[NH+:5]C1CCCCC1N.O|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,9292,"CC1CN(C)C2C1CCC(Br)[C:1]2=[O:2].C[OH+][K].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3796,"C=CCCC(CCCCC(=O)[O-])[C:1](O)([O:2]CC)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6120,"COC1=C([NH3+])C=CC(C(O)(OC)[OH:1])=C1.C[OH+:2][H:3].O=S(=O)([O-])O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7134,"O.[C-]#N.[CH:1]#[N:2].[NH3:3].[NH4+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6989,"CC1=C(CCO)S[C:1](=[C:2](O)C(C)C)[N:3]1CC1=CC=CC=C1.CC[NH+](CC)CC.C[C:4](=[O:5])[CH:6]=[CH2:7].[Cl-]|(3, 1);((1, 2), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9499,"C=C1CCCC2CC(O)([N:1]3CCCC3)C(C(C)C(=O)OCC)CC12.[Br-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9269,"C[N+:1](C)=[CH:2]Cl.O=P(Cl)(Cl)[O-:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2342,"C[OH:1].O=C(OCC1=CC=CC=C1)N1CC(O)CC1[C:2](O)=[OH+:3].O=S(=O)([O-])O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4584,"CC[N:1](CC)CC.[O-]C(Cl)(CCl)[NH+:2](C1=C2C=CC=CC2=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6479,"C[O+](C)[Si-:1](C)(C)(C)[CH:2]=[C+:3]C|((1, 2), 3)"
